US08110579B2
According to the saponification/peptide coupling steps described in examples 1.7 and 1.8 respectively, starting from 581 mg (1.36 mmol) of methyl 2′-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-2,3′-bipyridine-6′-carboxylate and 365 mg (1.87 mmol) of 2-aminoadamantane-2-carboxylic acid, we obtain 435 mg of 2-{[(2′-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-2,3′-bipyridin-6′-yl)carbonyl]amino}adamantane-2-carboxylic acid hydrochloride in the form of white powder.

reactant | methyl 2′-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-2,3′-bipyridine-6′-carboxylate | 1.36 mmol, 581 mg | ClC1=C(C=C(C=C1)C1=NC(=CC=C1C1=NC=CC=C1)C(=O)OC)OCCCN(C)C | C23H24ClN3O3
reactant | 2-aminoadamantane-2-carboxylic acid | 1.87 mmol, 365 mg | NC1(C2CC3CC(CC1C3)C2)C(=O)O | C11H17NO2
product | 2-{[(2′-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-2,3′-bipyridin-6′-yl)carbonyl]amino}adamantane-2-carboxylic acid hydrochloride | 435 mg, Yield=48% | Cl.ClC1=C(C=C(C=C1)C1=NC(=CC=C1C1=NC=CC=C1)C(=O)NC1(C2CC3CC(CC1C3)C2)C(=O)O)OCCCN(C)C | InChI=1S/C33H37ClN4O4.ClH/c1-38(2)12-5-13-42-29-19-22(7-9-26(29)34)30-25(27-6-3-4-11-35-27)8-10-28(36-30)31(39)37-33(32(40)41)23-15-20-14-21(17-23)18-24(33)16-20;/h3-4,6-11,19-21,23-24H,5,12-18H2,1-2H3,(H,37,39)(H,40,41);1H
